US07320994B2
4-Trimethylsilanylethynyl-pyridine
Heat a mixture of 4-bromopyridine hydrochloride (1.0 eq), ethynyl-trimethyl-silane (2.0 eq), PdCl2(PPh3)2 (0.1 eq), CuI (0.2 eq) and diisopropyl ethyl amine (10 eq) in DMF at 70° C. for 18 hours. Dilute with methylene chloride, and wash with water. Dry over MgSO4, filter and concentrate in vacuo. Purify the residue by flash chromatography on silica gel to give the title compound. MS (IS) 176.0 (M+1); TLC (20% ether in hexanes): Rf=0.1.

reactant | 4-bromopyridine hydrochloride | 1.0 eq | Cl.BrC1=CC=NC=C1
reactant | ethynyl-trimethyl-silane | 2.0 eq | C(#C)[Si](C)(C)C | C5H10Si
reactant | diisopropyl ethyl amine | 10 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(PPh3)2 | 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.2 eq | [Cu]I
product | 4-Trimethylsilanylethynyl-pyridine | C[Si](C)(C)C#CC1=CC=NC=C1 | C10H13NSi
